US07582631B2
To a 250 mL RBF was added 4.6 g (18 mmol) 2-(2-chloro-pyridin-4-yl)-quinolin-4-ol and 100 mL POCl3, and the mixture was treated with 3.1 mL DIEA (18 mmol). The mixture was was stirred at rt for 1 h, and all starting material was converted. All POCl3 was vacuumed down. The residue was dissolved in 250 mL DCM, washed with saturated NaHCO3 carefully to pH 8. The organic phase was dried over Na2SO4, concentrated and purified by column and yielded pale yellow 4-chloro-2-(2-chloro-pyridin-4-yl)-quinoline. MS (ES+): 275 (M+H)+.

reactant | 2-(2-chloro-pyridin-4-yl)-quinolin-4-ol | 18 mmol, 4.6 g | ClC1=NC=CC(=C1)C1=NC2=CC=CC=C2C(=C1)O | C14H9ClN2O
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DIEA | 18 mmol, 3.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-(2-chloro-pyridin-4-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=NC=C1)Cl | C14H8Cl2N2
